US07067506B2
Step 1: 2-amino-5-phenylpyrazine.
To a stirred solution of 3-bromo-5-phenyl-2-amino pyrazine (80 mg; 0.32 mmol), in ethyl acetate (1 mL) was added triethylamine (139 μL; 1.0 mmol) and Pd(OH)2 (10 mg; 20% wt on carbon). The reaction was placed under a hydrogen atmosphere at 45 psi and shook for 6 hours. The reaction was filtered and concentrated under reduced pressure. The product was purified using a biotage 12L eluting with ethyl acetate to yield an off white solid (75% yield).

reactant | 3-bromo-5-phenyl-2-amino pyrazine | 0.32 mmol, 80 mg | BrC=1C(=NC=C(N1)C1=CC=CC=C1)N | C10H8BrN3
reactant | triethylamine | 1.0 mmol, 139 μL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OH)2 | 10 mg | [OH-].[OH-].[Pd+2]
product | 2-amino-5-phenylpyrazine | 75% yield | NC1=NC=C(N=C1)C1=CC=CC=C1 | C10H9N3
